US06982348B2
To a solution of (4RS,5SR)-5-(6-fluoropyridin-3-yl)-4-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)-1,3-oxazolidin-2-one (3.10 g, 7.98 mmol) in acetonitrile (30 ml) were added di-t-butyl dicarbonate (2.09 g, 9.58 mmol) and dimethylaminopyridine (97 mg, 0.80 mmol), and the mixture was stirred at room temperature for 2 hrs. Water (50 ml) was added to the reaction solution, and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) and recrystallized from ethyl acetate-hexane to give 1,1-dimethylethyl(4RS,5SR)-5-(6-fluoropyridin-3-yl)-2-oxo-4-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)-1,3-oxazolidine-3-carboxylate (2.55 g, 65%).

reactant | (4RS,5SR)-5-(6-fluoropyridin-3-yl)-4-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)-1,3-oxazolidin-2-one | 7.98 mmol, 3.10 g | FC1=CC=C(C=N1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C17H13F5N2O3
reactant | di-t-butyl dicarbonate | 9.58 mmol, 2.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.80 mmol, 97 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Water | 50 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1,1-dimethylethyl(4RS,5SR)-5-(6-fluoropyridin-3-yl)-2-oxo-4-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)-1,3-oxazolidine-3-carboxylate | 2.55 g, 65% | FC1=CC=C(C=N1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C22H21F5N2O5
